US04036979
In a similar manner, as described in Example 1, 4,5,6,7-tetrahydrobenzo[b]thiophen-4-amine hydrochloride is allowed to react with cyclohexyl isocyanate in dry tetrahydrofuran to afford 7 grams of 1-cyclohexyl-3-(4,5,6,7-tetrahydrobenzo[b]thien-4-yl)urea, melting point 222° C. to 225° C.

reactant | 4,5,6,7-tetrahydrobenzo[b]thiophen-4-amine hydrochloride | Cl.S1C2=C(C=C1)C(CCC2)N
reactant | cyclohexyl isocyanate | C1(CCCCC1)N=C=O | C7H11NO
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 1-cyclohexyl-3-(4,5,6,7-tetrahydrobenzo[b]thien-4-yl)urea | 7 grams | C1(CCCCC1)NC(=O)NC1CCCC=2SC=CC21 | C15H22N2OS
